US04663347
5-Chloro-6-hydroxy-3-methylbenzofuran-2-carboxylic acid
3-Chloro-4-methyl-6-chloro-7-hydroxycoumarin was refluxed with NaOH (30 ml, 1N) for 1 hour. The mixture was washed with three 50 ml portions of ethyl acetate. Then acidification (HCl, 3N) of the aqueous phase followed by filtration of the solid that precipitated gave 0.5 g (54% yield) of the desired acid, m.p. 279°-280° C. In the ethyl acetate extract 0.2 g of decarboxylate product was recovered as a by product,

reactant | 3-Chloro-4-methyl-6-chloro-7-hydroxycoumarin | ClC=1C(OC2=CC(=C(C=C2C1C)Cl)O)=O | C10H6Cl2O3
reactant | NaOH | 1N, 30 ml | [OH-].[Na+]
product | 5-Chloro-6-hydroxy-3-methylbenzofuran-2-carboxylic acid | 0.5 g, 54% yield | ClC=1C(=CC2=C(C(=C(O2)C(=O)O)C)C1)O | C10H7ClO4
